US04012499
A. Preparation of methylthioxanthone (isomer mixture)
To a stirred mixture of concentrated sulphuric acid (300 ml) and toluene (46 ml), o-mercaptobenzoic acid (30 g) was added slowly. The mixture was stirred for 8 hrs. and allowed to stand for a further 10 hrs. After 1 hr. heating on the steam bath the dark red solution was cooled and poured on to ice. The gummy yellow precipitate was filtered off and triturated with 2N aqueous sodium hydroxide. The solid isomer-mixture was filtered off, washed with water, and dried at room temperature in vacuo, m.p. 107°-132° C.

reactant | sulphuric acid | 300 ml | S(O)(O)(=O)=O | H2O4S
reactant | o-mercaptobenzoic acid | 30 g | SC1=C(C(=O)O)C=CC=C1 | C7H6O2S
solvent | toluene | 46 ml | C1(=CC=CC=C1)C | C7H8
product | methylthioxanthone | CC1=CC=CC=2SC3=CC=CC=C3C(C12)=O | C14H10OS
